US09403846B2
Step 7. Synthesis of N-({(3S,4R,6R)-6-cyclopropyl-3-(2,4-difluorophenyl)-4-[(1S)-1-hydroxyethyl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide (C30)
Benzoyl isothiocyanate (47 μL, 0.35 mmol) was slowly added to a 0° C. solution of (1S)-1-[(2R,4R,5S)-5-amino-2-cyclopropyl-5-(2,4-difluorophenyl)tetrahydro-2H-pyran-4-yl]ethanol (C29) (0.11 g, 0.37 mmol) in dichloromethane (6 mL), and the reaction mixture was allowed to stir in the ice bath for 18 hours. After removal of solvent in vacuo, the residue was purified via chromatography on silica gel (Gradient: 0% to 100% ethyl acetate in heptane) to provide the product as an off-white foam. Yield: 94 mg, 0.20 mmol, 54%. LCMS m/z 461.2 [M+H+]. 1H NMR (400 MHz, CDCl3), characteristic peaks: δ 11.85 (v br s, 1H), 8.90 (br s, 1H), 7.91 (br d, J=7 Hz, 2H), 7.63-7.68 (m, 1H), 7.52-7.58 (m, 2H), 6.84-6.91 (m, 1H), 6.68-6.82 (br m, 1H), 3.84-3.96 (br m, 1H), 2.90-2.99 (br m, 1H), 1.84-1.94 (br m, 1H), 1.02-1.14 (br m, 1H), 0.47-0.65 (m, 3H), 0.28-0.38 (br m, 1H).

reactant | Benzoyl isothiocyanate | 0.35 mmol, 47 μL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | (1S)-1-[(2R,4R,5S)-5-amino-2-cyclopropyl-5-(2,4-difluorophenyl)tetrahydro-2H-pyran-4-yl]ethanol | 0.37 mmol, 0.11 g | N[C@@]1([C@@H](C[C@@H](OC1)C1CC1)[C@H](C)O)C1=C(C=C(C=C1)F)F | C16H21F2NO2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | N-({(3S,4R,6R)-6-cyclopropyl-3-(2,4-difluorophenyl)-4-[(1S)-1-hydroxyethyl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide | C1(CC1)[C@H]1C[C@H]([C@@](CO1)(C1=C(C=C(C=C1)F)F)NC(=S)NC(C1=CC=CC=C1)=O)[C@H](C)O | C24H26F2N2O3S
